*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.3
* < ILD_dielectric_const = 4.3
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_0 1 2 3 4 REF
C_C1 1 REF 0.7426469764962pf
C_C2 1 2 16.182478896877pf
C_C3 1 3 0.0285908148147pf
C_C4 1 4 0.2248302162342pf
C_C5 2 REF 0.955784119929pf
C_C6 2 3 0.1207381749575pf
C_C7 3 REF 0.4982107850174pf
C_C8 3 4 5.7987845868334pf
C_C9 4 REF 0.5118256075412pf
L_L1 3 5 1.3018124854155nh
R_RL1 5 4 -1.01073008e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_1 1 2 3 4 REF
C_C1 1 REF 0.6585960271229pf
C_C2 1 2 16.560520929209pf
C_C3 1 3 0.0262545161852pf
C_C4 1 4 0.2288459227531pf
C_C5 2 REF 0.8762884614199pf
C_C6 2 3 0.1205040693339pf
C_C7 3 REF 0.5008525409849pf
C_C8 3 4 4.2970400076554pf
C_C9 4 REF 0.5098139952573pf
L_L1 3 5 1.3030292379505nh
R_RL1 5 4 3.4464329019e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_2 1 2 3 4 REF
C_C1 1 REF 0.5838460554962pf
C_C2 1 2 16.979651726727pf
C_C3 1 3 0.0240058179886pf
C_C4 1 4 0.2332650442756pf
C_C5 2 REF 0.8067470165219pf
C_C6 2 3 0.1205332092086pf
C_C7 3 REF 0.5031336468872pf
C_C8 3 4 3.2467783968746pf
C_C9 4 REF 0.5083366903776pf
L_L1 3 5 1.3040436997413nh
R_RL1 5 4 2.1525564989e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_3 1 2 3 4 REF
C_C1 1 REF 0.5050791812228pf
C_C2 1 2 17.553974624276pf
C_C3 1 3 0.021293789105pf
C_C4 1 4 0.2393689875131pf
C_C5 2 REF 0.7354267404065pf
C_C6 2 3 0.1209206699966pf
C_C7 3 REF 0.5055248346228pf
C_C8 3 4 2.3414140630218pf
C_C9 4 REF 0.5070483999355pf
L_L1 3 5 1.3050715926067nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_4 1 2 3 4 REF
C_C1 1 REF 0.4305752105351pf
C_C2 1 2 18.295252602673pf
C_C3 1 3 0.0181795840209pf
C_C4 1 4 0.2473759875483pf
C_C5 2 REF 0.671024270474pf
C_C6 2 3 0.1218270133412pf
C_C7 3 REF 0.5078013300728pf
C_C8 3 4 1.6142930186512pf
C_C9 4 REF 0.5060570001055pf
L_L1 3 5 1.3061001953894nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_5 1 2 3 4 REF
C_C1 1 REF 0.3744063036646pf
C_C2 1 2 19.099427030225pf
C_C3 1 3 0.0151346226738pf
C_C4 1 4 0.2562260659843pf
C_C5 2 REF 0.626369622743pf
C_C6 2 3 0.123207660843pf
C_C7 3 REF 0.5095256473171pf
C_C8 3 4 1.1319276551307pf
C_C9 4 REF 0.5054805153163pf
L_L1 3 5 1.3069322325667nh
R_RL1 5 4 -2.408802209e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_6 1 2 3 4 REF
C_C1 1 REF 0.3325977410809pf
C_C2 1 2 19.971554880295pf
C_C3 1 3 0.0120791064069pf
C_C4 1 4 0.2659739458821pf
C_C5 2 REF 0.5975367778802pf
C_C6 2 3 0.1250498815613pf
C_C7 3 REF 0.510793077124pf
C_C8 3 4 0.8006293162206pf
C_C9 4 REF 0.5051769262628pf
L_L1 3 5 1.3076166285432nh
R_RL1 5 4 -3.659367349e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_7 1 2 3 4 REF
C_C1 1 REF 0.2974371399545pf
C_C2 1 2 21.094424949336pf
C_C3 1 4 0.2786760568305pf
C_C4 2 REF 0.5795612419522pf
C_C5 2 3 0.1278102399695pf
C_C6 3 REF 0.511804584277pf
C_C7 3 4 0.5354324585331pf
C_C8 4 REF 0.5050498917023pf
L_L1 3 5 1.3082630353012nh
R_RL1 5 4 -4.851197991e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_8 1 2 3 4 REF
C_C1 1 REF 0.2694610151985pf
C_C2 1 2 22.520782508799pf
C_C3 1 4 0.2949281739636pf
C_C4 2 REF 0.5737650101204pf
C_C5 2 3 0.1317299063424pf
C_C6 3 REF 0.5125049861482pf
C_C7 3 4 0.3304393558359pf
C_C8 4 REF 0.5050844236024pf
L_L1 3 5 1.3088739739369nh
R_RL1 5 4 -5.919153591e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_9 1 2 3 4 REF
C_C1 1 REF 0.2478823166037pf
C_C2 1 2 24.372415645697pf
C_C3 1 4 0.3160705671291pf
C_C4 2 REF 0.5810823634704pf
C_C5 2 3 0.1372803931802pf
C_C6 3 REF 0.5128679482111pf
C_C7 3 4 0.1785870389343pf
C_C8 4 REF 0.5052643508371pf
L_L1 1 5 95.996788721461nh
R_RL1 5 2 9.8675774805533
L_L2 3 6 1.3094084102954nh
R_RL2 6 4 -6.708510841e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_10 1 2 3 4 REF
C_C1 1 REF 0.2300201722589pf
C_C2 1 2 26.784134445301pf
C_C3 1 4 0.3435251333205pf
C_C4 2 REF 0.6005610008376pf
C_C5 2 3 0.1449640747687pf
C_C6 3 REF 0.5129316680284pf
C_C7 3 4 0.0679746026471pf
C_C8 4 REF 0.5055566836245pf
L_L1 1 5 59.891823550327nh
R_RL1 5 2 6.4743692714158
L_L2 3 6 1.3098548931964nh
R_RL2 6 4 -7.134734687e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_11 1 2 3 4 REF
C_C1 1 REF 0.2119682976806pf
C_C2 1 2 30.043399661572pf
C_C3 1 4 0.3803627663306pf
C_C4 2 REF 0.6321443788076pf
C_C5 2 3 0.1558225295102pf
C_C6 3 REF 0.5127375159353pf
C_C7 4 REF 0.5059432276447pf
L_L1 1 5 37.142072665555nh
R_RL1 5 2 3.5754482069874
L_L2 3 6 1.3101307707243nh
R_RL2 6 4 -7.07549716e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_12 1 2 3 4 REF
C_C1 1 REF 0.1885070978711pf
C_C2 1 2 34.544754218011pf
C_C3 1 4 0.4307751555611pf
C_C4 2 REF 0.6758748529355pf
C_C5 2 3 0.1712681093672pf
C_C6 3 REF 0.5123451697595pf
C_C7 4 REF 0.5064121434119pf
L_L1 1 5 22.591779778937nh
R_RL1 5 2 1.6646931337459
L_L2 3 6 1.3099199381566nh
R_RL2 6 4 -6.476993394e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_13 1 2 3 4 REF
C_C1 1 REF 0.1515656943926pf
C_C2 1 2 41.154134927552pf
C_C3 1 4 0.5040837877569pf
C_C4 2 REF 0.7356104358353pf
C_C5 2 3 0.1943852280416pf
C_C6 3 REF 0.5117820600683pf
C_C7 4 REF 0.5069907857882pf
L_L1 1 5 13.32339283036nh
R_RL1 5 2 0.6815839791161
L_L2 3 6 1.3095170355879nh
R_RL2 6 4 -5.318334115e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_14 1 2 3 4 REF
C_C1 1 REF 0.0886953212228pf
C_C2 1 2 51.402906716915pf
C_C3 1 4 0.6168564541761pf
C_C4 2 REF 0.8202677217936pf
C_C5 2 3 0.2305933475776pf
C_C6 3 REF 0.5110514090121pf
C_C7 4 REF 0.5077636088365pf
L_L1 1 5 7.4944519023096nh
R_RL1 5 2 0.4523496627171
L_L2 3 6 1.3088660184349nh
R_RL2 6 4 -3.626750913e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_15 1 2 3 4 REF
C_C1 1 2 69.21220491421pf
C_C2 1 4 0.8117214046141pf
C_C3 2 REF 0.9563572451063pf
C_C4 2 3 0.2937563480842pf
C_C5 3 REF 0.5100735923358pf
C_C6 4 REF 0.5090006441352pf
R_R1 1 2 591.83492084291
L_L1 1 5 4.1053367866569nh
R_RL1 5 2 0.0564347504796
L_L2 3 6 1.3076880268288nh
R_RL2 6 4 -1.538123342e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_16 1 2 3 4 REF
C_C1 1 2 108.48686123181pf
C_C2 1 4 1.240167910708pf
C_C3 2 REF 1.2420459581427pf
C_C4 2 3 0.4330532371989pf
C_C5 3 REF 0.5084752812386pf
C_C6 4 REF 0.5117314329477pf
R_R1 1 2 163.02261219085
L_L1 1 5 1.7687819830958nh
R_RL1 5 2 -0.141785210867
L_L2 1 6 75.573743119936nh
R_RL2 6 3 -0.212516041422
L_L3 1 7 74.818240865949nh
R_RL3 7 4 -0.212865706013
L_L4 2 8 75.657686590273nh
R_RL4 8 3 0.0206342604329
L_L5 2 9 74.904956330358nh
R_RL5 9 4 0.0202534439193
L_L6 3 10 1.3051418171767nh
R_RL6 10 4 1.0e-5
Kn_K1 L_L1 L_L2 0.0728627680646
Kn_K2 L_L1 L_L3 0.0731092403496
Kn_K3 L_L1 L_L4 -0.08007876942
Kn_K4 L_L1 L_L5 -0.080600536961
Kn_K5 L_L2 L_L3 0.9913342416119
Kn_K6 L_L2 L_L4 0.9883042899094
Kn_K7 L_L2 L_L5 0.9795636193421
Kn_K8 L_L2 L_L6 -0.103742968148
Kn_K9 L_L3 L_L4 0.9796056543729
Kn_K10 L_L3 L_L5 0.9881864854525
Kn_K11 L_L3 L_L6 0.0278109222747
Kn_K12 L_L4 L_L5 0.9913439585722
Kn_K13 L_L4 L_L6 -0.103545921507
Kn_K14 L_L5 L_L6 0.0279349970878
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_17 1 2 3 4 REF
C_C1 1 2 233.87466597303pf
C_C2 1 4 2.6066326362525pf
C_C3 2 REF 2.1341427521906pf
C_C4 2 3 0.8772486362733pf
C_C5 3 REF 0.5046404667713pf
C_C6 4 REF 0.5209032616911pf
R_R1 1 2 37.756359917319
L_L1 1 5 70.914736680812nh
R_RL1 5 REF -1.448003613801
L_L2 1 6 0.5589356267743nh
R_RL2 6 2 -0.075374426723
L_L3 1 7 27.48749281676nh
R_RL3 7 3 -0.077190447097
L_L4 1 8 26.783386216916nh
R_RL4 8 4 -0.078089227006
L_L5 2 9 70.464690410825nh
R_RL5 9 REF -1.62522021267
L_L6 2 10 27.575046004091nh
R_RL6 10 3 0.0051829621517
L_L7 2 11 26.874733773841nh
R_RL7 11 4 0.0049773850071
L_L8 3 12 97.722419167279nh
R_RL8 12 REF -1.590633966718
L_L9 3 13 1.2971489216679nh
R_RL9 13 4 3.0791430822e-5
L_L10 4 14 97.008261668811nh
R_RL10 14 REF -1.592271480744
Kn_K1 L_L1 L_L2 0.080131677574
Kn_K2 L_L1 L_L5 0.9960516027015
Kn_K3 L_L1 L_L8 0.8477825982417
Kn_K4 L_L1 L_L10 0.8508368977969
Kn_K5 L_L2 L_L3 0.0601305177298
Kn_K6 L_L2 L_L4 0.0604254353443
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.082336423832
Kn_K9 L_L2 L_L7 -0.083891806407
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9761807798819
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9898503276923
Kn_K15 L_L3 L_L7 0.9658486521661
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.167575322387
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9660269638578
Kn_K21 L_L4 L_L7 0.9895848255282
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0503069549272
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8472463514473
Kn_K26 L_L5 L_L10 0.8502755409027
Kn_K27 L_L6 L_L7 0.9762579004828
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.166991860613
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0505427087721
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.0893215436538
Kn_K35 L_L8 L_L10 0.9933454344656
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_18 1 2 3 4 REF
C_C1 1 2 1772.0296266545pf
C_C2 1 4 19.359134824642pf
C_C3 2 REF 12.996923266043pf
C_C4 2 3 6.3331325793311pf
C_C5 3 REF 0.4653240846007pf
C_C6 4 REF 0.638462595136pf
R_R1 1 REF -143.8308297969
R_R2 1 2 1.2240734237709
R_R3 1 3 -439.6384587594
R_R4 1 4 105.6673781476
R_R5 2 REF 143.50195383446
R_R6 2 3 439.75199963429
R_R7 2 4 -105.7029037006
L_L1 1 5 5.8331151339019nh
R_RL1 5 REF -0.02557234659
L_L2 1 6 0.0494137564679nh
R_RL2 6 2 -0.023398400657
L_L3 1 7 3.4612301365633nh
R_RL3 7 3 -0.014069715018
L_L4 1 8 2.8378359349166nh
R_RL4 8 4 -0.016840986928
L_L5 2 9 5.8004822844501nh
R_RL5 9 REF -0.056503087766
L_L6 2 10 3.4727538680293nh
R_RL6 10 3 -9.373321692e-4
L_L7 2 11 2.8541638738395nh
R_RL7 11 4 -3.848842094e-4
L_L8 3 12 9.2386471729136nh
R_RL8 12 REF -0.045114720528
L_L9 3 13 1.2036061274119nh
R_RL9 13 4 -7.160657395e-5
L_L10 4 14 8.608483590027nh
R_RL10 14 REF -0.048534787658
Kn_K1 L_L1 L_L2 0.0764110934931
Kn_K2 L_L1 L_L5 0.9957564130509
Kn_K3 L_L1 L_L8 0.790801829522
Kn_K4 L_L1 L_L10 0.8187574112654
Kn_K5 L_L2 L_L3 0.0458095180519
Kn_K6 L_L2 L_L4 0.0441768044366
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.073551852296
Kn_K9 L_L2 L_L7 -0.08752810307
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.8129138373534
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9928750558277
Kn_K15 L_L3 L_L7 0.804557725135
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.447559929426
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.8062943163462
Kn_K21 L_L4 L_L7 0.9913228140695
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.1569715036845
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.7900072047619
Kn_K26 L_L5 L_L10 0.8175929387338
Kn_K27 L_L6 L_L7 0.8136625394328
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.445641805835
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.1578178780957
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.2749592999682
Kn_K35 L_L8 L_L10 0.9331421109654
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_19 1 2 3 4 REF
C_C1 1 REF 17.659561136782pf
C_C2 1 3 8.6943960018608pf
C_C3 2 4 26.551762452479pf
C_C4 3 REF 0.5697816851589pf
C_C5 4 REF 0.3141502234268pf
R_R1 1 REF 164.38376265342
R_R2 1 2 -1.564236450151
R_R3 1 3 685.46884365386
R_R4 1 4 -129.9341525205
R_R5 2 REF -165.6498421045
R_R6 2 3 -685.7155892317
R_R7 2 4 129.98485395358
L_L1 1 5 3.5034052747401nh
R_RL1 5 REF -0.012060813502
L_L2 1 6 0.1737811129092nh
R_RL2 6 2 0.9915690627672
L_L3 1 7 2.378013808008nh
R_RL3 7 3 0.445336585267
L_L4 1 8 1.8227783927638nh
R_RL4 8 4 0.6322175572577
L_L5 2 9 3.6304435925858nh
R_RL5 9 REF 1.0834560432418
L_L6 2 10 2.3427963324123nh
R_RL6 10 3 0.1076095417894
L_L7 2 11 1.7537921691153nh
R_RL7 11 4 0.0400854680226
L_L8 3 12 5.8663910932937nh
R_RL8 12 REF 0.501911375608
L_L9 3 13 1.1420149050159nh
R_RL9 13 4 0.0163606798884
L_L10 4 14 5.3172349829978nh
R_RL10 14 REF 0.7021342340837
Kn_K1 L_L1 L_L2 0.0299528537303
Kn_K2 L_L1 L_L5 0.9757946558378
Kn_K3 L_L1 L_L8 0.7711293299007
Kn_K4 L_L1 L_L10 0.8106758830813
Kn_K5 L_L2 L_L3 0.1625567037639
Kn_K6 L_L2 L_L4 0.2156711405156
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.10858022184
Kn_K9 L_L2 L_L7 -0.09491170104
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 0.0379007488591
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.7345878490509
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.96321508892
Kn_K16 L_L3 L_L7 0.6977259766415
Kn_K17 L_L3 L_L8 0.9359771050113
Kn_K18 L_L3 L_L9 -0.514959211983
Kn_K19 L_L3 L_L10 0.9839777022185
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.6813495714648
Kn_K22 L_L4 L_L7 0.9515882759374
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.2033490311262
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L6 0.0183186163743
Kn_K27 L_L5 L_L7 0.0132764188299
Kn_K28 L_L5 L_L8 0.7750967492354
Kn_K29 L_L5 L_L10 0.8186736397059
Kn_K30 L_L6 L_L7 0.7288002043794
Kn_K31 L_L6 L_L8 0.964869313475
Kn_K32 L_L6 L_L9 -0.529137696612
Kn_K33 L_L6 L_L10 1.0
Kn_K34 L_L7 L_L8 1.0
Kn_K35 L_L7 L_L9 0.1953793327693
Kn_K36 L_L7 L_L10 1.0
Kn_K37 L_L8 L_L9 0.3266902240035
Kn_K38 L_L8 L_L10 0.8989695304349
Kn_K39 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_20 1 2 3 4 REF
C_C1 1 2 283.58658856092pf
C_C2 1 4 3.1468824188904pf
C_C3 2 REF 2.4926108055684pf
C_C4 2 3 1.0520605791873pf
C_C5 3 REF 0.5009684140097pf
C_C6 4 REF 0.5221161039589pf
R_R1 1 2 -20.80898163443
L_L1 1 5 31.216673430083nh
R_RL1 5 REF -1.281337043831
L_L2 1 6 0.148231017565nh
R_RL2 6 2 0.0221557397423
L_L3 1 7 13.056591422917nh
R_RL3 7 3 3.9186375776e-4
L_L4 1 8 12.362851681572nh
R_RL4 8 4 0.0010154730055
L_L5 2 9 30.924085481564nh
R_RL5 9 REF -1.289562279736
L_L6 2 10 13.152226174019nh
R_RL6 10 3 0.006151223159
L_L7 2 11 12.466325153945nh
R_RL7 11 4 0.0054420260209
L_L8 3 12 44.01744649064nh
R_RL8 12 REF -1.337117158381
L_L9 3 13 1.2815877045498nh
R_RL9 13 4 7.657309165e-5
L_L10 4 14 43.313487579327nh
R_RL10 14 REF -1.338132393533
Kn_K1 L_L1 L_L2 0.1024630832995
Kn_K2 L_L1 L_L5 0.9976256513288
Kn_K3 L_L1 L_L8 0.8386827808682
Kn_K4 L_L1 L_L10 0.8453317628705
Kn_K5 L_L2 L_L3 0.0189034237255
Kn_K6 L_L2 L_L4 0.0165313145195
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.087327628789
Kn_K9 L_L2 L_L7 -0.092581070228
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9499362242579
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9943508508633
Kn_K15 L_L3 L_L7 0.9439243628624
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.241446007973
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9447212517494
Kn_K21 L_L4 L_L7 0.9940385984394
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0738416727908
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.8373797710885
Kn_K26 L_L5 L_L10 0.8439104597119
Kn_K27 L_L6 L_L7 0.9503148983108
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.239611940376
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0745151372051
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1321793170109
Kn_K35 L_L8 L_L10 0.985356941664
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_21 1 2 3 4 REF
C_C1 1 REF 0.0138577103958pf
C_C2 1 2 67.090442695048pf
C_C3 1 4 0.7838686325123pf
C_C4 2 REF 0.9585562409101pf
C_C5 2 3 0.2871839488807pf
C_C6 3 REF 0.5055606959406pf
C_C7 4 REF 0.5042641016621pf
R_R1 1 2 -215.0742741971
L_L1 1 5 0.5352362076018nh
R_RL1 5 2 -0.188137455722
L_L2 1 6 52.432998640354nh
R_RL2 6 3 -0.046674237761
L_L3 1 7 51.603531690497nh
R_RL3 7 4 -0.044991070873
L_L4 2 8 53.025841838603nh
R_RL4 8 3 -0.368903552946
L_L5 2 9 52.203511073102nh
R_RL5 9 4 -0.363708752746
L_L6 3 10 1.299500909277nh
R_RL6 10 4 2.5768945306e-5
Kn_K1 L_L1 L_L4 -0.105874932559
Kn_K2 L_L1 L_L5 -0.10738058161
Kn_K3 L_L2 L_L3 0.9875405740016
Kn_K4 L_L2 L_L4 0.9949404120951
Kn_K5 L_L2 L_L5 0.9823997753706
Kn_K6 L_L2 L_L6 -0.128958053012
Kn_K7 L_L3 L_L4 0.9826234151909
Kn_K8 L_L3 L_L5 0.9948605487365
Kn_K9 L_L3 L_L6 0.0286992953825
Kn_K10 L_L4 L_L5 0.9876809341389
Kn_K11 L_L4 L_L6 -0.127805296649
Kn_K12 L_L5 L_L6 0.0289671064994
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_22 1 2 3 4 REF
C_C1 1 REF 0.3028892731509pf
C_C2 1 2 27.197545062334pf
C_C3 1 4 0.3459172188436pf
C_C4 2 REF 0.6790071843921pf
C_C5 2 3 0.1448736376263pf
C_C6 3 REF 0.5059272941943pf
C_C7 4 REF 0.500298797534pf
L_L1 1 5 0.8737128291041nh
R_RL1 5 2 -0.037966550847
L_L2 3 6 1.3026180583419nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_23 1 2 3 4 REF
C_C1 1 REF 0.402247198267pf
C_C2 1 2 14.134424765638pf
C_C3 1 3 0.0553320541023pf
C_C4 1 4 0.2015643738313pf
C_C5 2 REF 0.5932800295417pf
C_C6 2 3 0.096603020384pf
C_C7 3 REF 0.5054194406281pf
C_C8 4 REF 0.4983324394566pf
L_L1 1 5 1.234746003201nh
R_RL1 5 2 -5.22430819e-4
L_L2 3 6 1.300636169113nh
R_RL2 6 4 -1.241539724e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_24 1 2 3 4 REF
C_C1 1 REF 0.446402033302pf
C_C2 1 2 8.8608036692483pf
C_C3 1 3 0.080718037463pf
C_C4 1 4 0.1431188954119pf
C_C5 2 REF 0.5651989101149pf
C_C6 2 3 0.0750259871337pf
C_C7 2 4 0.0230115705768pf
C_C8 3 REF 0.5038675405597pf
C_C9 4 REF 0.4960322158876pf
L_L1 1 5 1.7194742072805nh
R_RL1 5 2 0.0041651518758
L_L2 3 6 1.2983281754107nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_25 1 2 3 4 REF
C_C1 1 REF 0.4710712066031pf
C_C2 1 2 6.6917826937677pf
C_C3 1 3 0.0987623605918pf
C_C4 1 4 0.1155725198178pf
C_C5 2 REF 0.5608747091129pf
C_C6 2 3 0.0616778845276pf
C_C7 2 4 0.055505036416pf
C_C8 3 REF 0.5019034359991pf
C_C9 4 REF 0.4935379265286pf
L_L1 1 5 1.8876215456693nh
R_RL1 5 2 -5.559011399e-4
L_L2 3 6 1.2953790827214nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_26 1 2 3 4 REF
C_C1 1 REF 0.4820691414457pf
C_C2 1 2 6.1556380035712pf
C_C3 1 3 0.1105202692806pf
C_C4 1 4 0.1051305974153pf
C_C5 2 REF 0.5658614148391pf
C_C6 2 3 0.0536055804206pf
C_C7 2 4 0.0698384456301pf
C_C8 3 REF 0.5003534497173pf
C_C9 4 REF 0.4916632958793pf
L_L1 1 5 1.9390860516502nh
R_RL1 5 2 6.7314691795e-5
L_L2 3 6 1.2941199528951nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param31_26

